US07649010B2
Carvedilol HBr (n-propanol Solvate #1)
Carvedilol free base is dissolved in n-propanol/water (95:5), and stoichiometric hydrobromic acid is added. The solution is cooled, and crystallization ensues. The product is filtered, washed with process solvent, and dried.

reactant | Carvedilol | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O | C24H26N2O4
reactant | hydrobromic acid | Br | BrH
solvent | n-propanol water | C(CC)O.O
product | Carvedilol HBr | COC=1C=CC=CC1OCCNCC(COC=2C=CC=C3C2C=4C=CC=CC4N3)O.Br | InChI=1S/C24H26N2O4.BrH/c1-28-21-10-4-5-11-22(21)29-14-13-25-15-17(27)16-30-23-12-6-9-20-24(23)18-7-2-3-8-19(18)26-20;/h2-12,17,25-27H,13-16H2,1H3;1H
